US09079902B2
A vial was charged with N-(2,4-dimethoxybenzyl)-1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.500 g, 0.876 mmol), 2-bromo-1-iodo-4-(trifluoromethyl)benzene (0.769 g, 2.191 mmol), potassium phosphate (0.651 g, 3.07 mmol), and PdCl2(dppf)-CH2Cl2 (0.072 g, 0.088 mmol). DMF (5.84 ml), and the vial was flushed with argon, sealed, and stirred at 60° C. for two hours. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (silica gel, gradient elution 0 to 100% EtOAc:Hexanes) to afford 3-(2-bromo-4-(trifluoromethyl)phenyl)-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.255 g, 0.382 mmol, 43.6% yield) as an off-white solid. m/z (ESI) 667.0 (M+H)+.

reactant | N-(2,4-dimethoxybenzyl)-1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.876 mmol, 0.500 g | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=CN(C3=C2)C)B2OC(C(O2)(C)C)(C)C)C2=NC=NS2)C=CC(=C1)OC | C26H31BN4O6S2
reactant | 2-bromo-1-iodo-4-(trifluoromethyl)benzene | 2.191 mmol, 0.769 g | BrC1=C(C=CC(=C1)C(F)(F)F)I | C7H3BrF3I
reactant | potassium phosphate | 3.07 mmol, 0.651 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.088 mmol, 0.072 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-(2-bromo-4-(trifluoromethyl)phenyl)-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.382 mmol, 0.255 g, 43.6% yield | BrC1=C(C=CC(=C1)C(F)(F)F)C1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C27H22BrF3N4O4S2
